US04912104
3-Amino-5,7-diethylpyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione
A mixture of 6-chloro-5-cyano-1,3-diethylpyrimidine-2,4(1H, 3H)-dione(5 g) and hydrazine monohydrate (2.2 ml) in methanol (220 ml) was stirred for 10 minutes at room temperature. The reaction mixture was concentrated to dryness under reduced pressure, and the concentrate was crystallized from aqueous methanol to obtain colorless needles(4.3 g), m.p. 246°-248° C.

reactant | 6-chloro-5-cyano-1,3-diethylpyrimidine-2,4(1H, 3H)-dione | 5 g | ClC1=C(C(N(C(N1CC)=O)CC)=O)C#N | C9H10ClN3O2
reactant | hydrazine monohydrate | 2.2 ml | O.NN
solvent | methanol | 220 ml | CO | CH4O
product | 3-Amino-5,7-diethylpyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | 4.3 g | NC1=NNC=2N(C(N(C(C21)=O)CC)=O)CC | C9H13N5O2
